US04992439
A mixture of methyl 6-oxo-3,4-diphenyl-1(6H)-pyridazinenonanoate (6 g, 14 mmol), 5N NaOH solution (8.6 mL, 43 mmol) and methanol (100 mL) was heated to reflux on a steam bath. After 30 minutes, the mixture was concentrated, diluted with water and acidified to pH=1 with 2N HCl solution. The mixture was extracted with CH2Cl2, the combined extracts dried over sodium sulfate and concentrated to leave an oil that crystallized on standing. Recrystallization from a mixture of CH2Cl2 and hexanes gave 6-oxo-3,4-diphenyl-1(6H)-pyridazinenonanoic acid (3.92 g, 67%) mp 100°-103° C.

reactant | methyl 6-oxo-3,4-diphenyl-1(6H)-pyridazinenonanoate | 14 mmol, 6 g | O=C1C=C(C(=NN1CCCCCCCCC(=O)OC)C1=CC=CC=C1)C1=CC=CC=C1 | C26H30N2O3
reactant | NaOH | 43 mmol, 5N, 8.6 mL | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 6-oxo-3,4-diphenyl-1(6H)-pyridazinenonanoic acid | 3.92 g, 67% | O=C1C=C(C(=NN1CCCCCCCCC(=O)O)C1=CC=CC=C1)C1=CC=CC=C1 | C25H28N2O3
